US09120822B2
Phthalic anhydride (200 mg, 1.34 mmol, 2.53 eq) is added at room temperature to a stirred solution of trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine (200 mg, 0.53 mmol, 1.0 eq) in pyridine (4 mL). The reaction mixture is heated to reflux for 3 hours, pyridine is then removed and acetic anhydride (1 mL) is added. The resulting mixture is heated to reflux for 2 hours, then extracted with ethyl acetate (3×10 mL) and water (5 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to afford 2-[trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione as a light brown semisolid (190 mg, 69% yield).

reactant | Phthalic anhydride | 1.34 mmol, 200 mg, 2.53 eq | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | 0.53 mmol, 200 mg, 1.0 eq | COC=1N=C2C=3NC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N | C17H22N4O2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 2-[trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione | 190 mg, 69% yield | COC=1N=C2C=3NC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C25H24N4O4
